US05556857
In the same manner as in Reference Example 1, 60% sodium hydride in oil was added portionwise to a solution of 5-chloro-3,4-dihydrocarbostyril in DMF, the resultant mixture was stirred for 30 minutes, 1-bromo-3-chloropropane was then added, and the resultant mixture was further stirred at 80°-90° C. for 8 hours. The DMF was distilled off under reduced pressure, and the residue was extracted with chloroform. The extract was washed with water and dried (anhydrous magnesium sulfate), the chloroform was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to give 5-chloro-1-(3-chloropropyl)-3,4-dihydrocarbostyril as a pale yellow oil.

reactant | sodium hydride | [H-].[Na+]
reactant | 5-chloro-3,4-dihydrocarbostyril | ClC1=C2CCC(NC2=CC=C1)=O | C9H8ClNO
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-1-(3-chloropropyl)-3,4-dihydrocarbostyril | ClC1=C2CCC(N(C2=CC=C1)CCCCl)=O | C12H13Cl2NO
